US08791235B2
Oxydation of diethyl methylthiomethylphosphonate include anodic oxidation in NaOMe/MeOH (saturated with CO2) to give the O, S-acetal of diethoxyphosphinylformaldehyde, which upon oxidation may give the corresponding sulfone as Diethyl methoxy(methylsulfone)phenyl phosphonate (Shankaran, K et al. 2001).

reactant | diethyl methylthiomethylphosphonate | CSCP(OCC)(OCC)=O | C6H15O3PS
reactant | NaOMe MeOH | C[O-].[Na+].CO
product | diethoxyphosphinylformaldehyde | C(C)OP(=O)(OCC)C=O | C5H11O4P
